2108-01-10 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2108-1-9**] 04:35 PM
 ARTERIAL LINE - START [**2108-1-9**] 06:40 PM
 MULTI LUMEN - START [**2108-1-9**] 06:42 PM
 BLOOD CULTURED - At [**2108-1-9**] 09:00 PM
 URINE CULTURE - At [**2108-1-9**] 10:00 PM
 BRONCHOSCOPY - At [**2108-1-9**] 10:15 PM
   [**2108-1-9**]:
   - Left IJ and radial art line placed
   - Bronchial blockade placed, then did not stay in place.  Had to be
   repositioned with bronchoscopy
   - Hct dropped to 27.4 from 30 prior to thoracentesis, continued to
   trend, Hct stable at 27.8
   - Hypotensive following bronchoscopy, likely secondary to sedation,
   started levophed after bolus of 500ccs, CVPs remained elevated
   - Able to come down on rate to 13, and FiO2 to 60%
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Aztreonam - [**2108-1-9**] 11:30 PM
   Vancomycin - [**2108-1-10**] 12:31 AM
   Metronidazole - [**2108-1-10**] 01:31 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2108-1-9**] 05:40 PM
   Midazolam (Versed) - [**2108-1-9**] 05:41 PM
   Vecuronium - [**2108-1-9**] 06:06 PM
   Pantoprazole (Protonix) - [**2108-1-10**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-10**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 78 (54 - 78) bpm
   BP: 104/48(59) {86/15(52) - 136/86(90)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 22 (16 - 28)mmHg
   Total In:
                                                                    808 mL
                                                                    419 mL
   PO:
   TF:
   IVF:
                                                                    808 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    380 mL
   Urine:
                                                                    370 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    438 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.54/30/124/25/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Diminished: right lower
   lobe)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   9.6 g/dL
   104 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   27 mg/dL
   99 mEq/L
   133 mEq/L
   28.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2108-1-9**]  05:22 PM
                             [**2108-1-9**]  06:03 PM
                             [**2108-1-9**]  07:04 PM
                             [**2108-1-9**]  08:55 PM
                             [**2108-1-9**]  10:14 PM
                             [**2108-1-9**]  11:51 PM
                             [**2108-1-10**]  01:06 AM
                             [**2108-1-10**]  01:20 AM
                             [**2108-1-10**]  04:03 AM
                             [**2108-1-10**]  04:30 AM
   WBC
   6.5
   Hct
   29.4
   27.1
   27.8
   28.2
   Plt
   294
   Cr
   1.5
   1.3
   TCO2
   26
   28
   26
   28
   26
   Glucose
   103
   98
   104
   Other labs: PT / PTT / INR:14.2/28.8/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:9.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   62 y/o F with PMHx of biventricular heart failure and moderate pulm
   hypertension presents with pleuritic chest pain, hypoxia and DOE
   transferred to the MICU for hemoptysis following thoracentesis.
   .
   # Hemoptysis:  Concern for pneumonic laceration during the procedure.
   Patient was intubated on arrival to the MICU for airway protection and
   ease of bronchoscopy, continues to remain on mechanical ventilation.
   - Bronchoscopy showed RLL bleeding, however not brisk, plan to perform
   bronchial blockade for tamponade of bleeding, will likely remove
   balloon today if remains stable
   - IR on board, may require angiography if bleeding does not stop
   - Thoracic Surgery made aware as she may require chest tube placement
   or surgical intervention if hemostasis not achieved by bronchoscopy
   - Continue Q 4h Hct
s, if stable can spread out
   - Monitor O2 sats
   - Maintain mechanical ventilation and wean after balloon removed and
   diuresis
   .
   # Hypoxia/DOE:  Most likely secondary to volume overload.  Pt with
   known biventricular heart failure, pulm htn and new pleural effusion.
   Imaging was less consistent with PNA.  No evidence of PE on CTA on
   admission.  Pt is due for work-up of pulm hypertension including PFTs
   and may also benefit from trial of sildenafil.
   - Diuresis was initiated with lasix 40mg IV initially, then titrated up
   to 80mg [**Hospital1 **], on hold since admission to the MICU, however will start
   lasix drip for volume removal
   - Will discontinue antibiotics as unlikely to be infectious given
   afebrile and no increase in WBC count, follow cultures, trend fever
   curve and WBCs and start as needed
   - continue to monitor strict i/os
   - Alb/atro nebs PRN
   - Will check ABG following balloon removal, attempt to wean to PSV
   following
   .
   # Hypotension:  CVP elevated.  Most likely cardiogenic failure,
   worsened by sedation.  Will continue levophed as needed, attempt to
   titrate.
   -          Lasix drip today for volume removal in the setting of
   cardiogenic shock
   -          Check PM lytes
   -          Attempt to wean sedation after balloon removed
   .
   # Chest pain:  Most likely pleurtic in nature.  Resolved.  EKGs
   essentially unchanged, CE's ruled out and cardiac cath in [**10-28**] was
   normal.
   - continue to monitor on telemetry
   - Hold Aspirin, will hold metoprolol for now, and restart when
   hemodynamically stable
   .
   # Hypertension: hold toprol & lasix until hemodynamically stable
   .
   # Ulcerative Colitis: currently asymptomatic, continue home regimen
   - restart Asacol 800mg TID when taking PO
   .
   # Afib:  The patient was not anticoagulated previously secodnary to
   recent Dx of Duodenal Ulcer.  Will not start anticoagulation in the
   setting of acute bleed.
   - Hold toprol for now, will use IV lopressor as needed overnight.
   .
   # FEN:  start tube feeds today, replete lytes PRN
   .
   # Access: PIV, L IJ, right radial line
   .
   # PPx: pneumoboots, bowel regimen, IV PPI
   .
   # Code: FULL
   .
   # Dispo: ICU for now
   .
   # Comm: With patient
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 EDEMA, PERIPHERAL
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-1-9**] 04:33 PM
   Arterial Line - [**2108-1-9**] 06:40 PM
   Multi Lumen - [**2108-1-9**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-01-10 09:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with h/o UC and diastolic CHF --was  treated for URI with
   Azithro 2 weeks ago.  Since then worsening orthopnea and SOB.  Admitted
   to hospital with hypoxemia and originally admitted to floor.  Had
   thoracentesis yesterday - and had hemoptysis post procedure.  Began
   having hemoptysis.  Came to MICU and was intubated and bronched.  Had
   bronchial blocker placed in RLL.  Becamse dislodged few hours later,
   replaced via bronch although no active bleeding found.  Has also been
   hypotensive overnight despite high CVPs up to 25.  Levophed has been
   weaning down.
   24 Hour Events:
 BRONCHOSCOPY - At [**2108-1-9**] 04:35 PM
 ARTERIAL LINE - START [**2108-1-9**] 06:40 PM
 MULTI LUMEN - START [**2108-1-9**] 06:42 PM
 BLOOD CULTURED - At [**2108-1-9**] 09:00 PM
 URINE CULTURE - At [**2108-1-9**] 10:00 PM
 BRONCHOSCOPY - At [**2108-1-9**] 10:15 PM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Vancomycin - [**2108-1-10**] 12:31 AM
   Metronidazole - [**2108-1-10**] 07:59 AM
   Aztreonam - [**2108-1-10**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2108-1-9**] 05:40 PM
   Midazolam (Versed) - [**2108-1-9**] 05:41 PM
   Vecuronium - [**2108-1-9**] 06:06 PM
   Pantoprazole (Protonix) - [**2108-1-10**] 04:00 AM
   Other medications:
   Feso4
   neurontin
   folate
   chlorhex
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-10**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (54 - 86) bpm
   BP: 105/52(65) {86/15(52) - 136/86(90)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 19 (16 - 28)mmHg
   Total In:
                                                                    808 mL
                                                                    659 mL
   PO:
   TF:
   IVF:
                                                                    808 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    405 mL
   Urine:
                                                                    370 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    438 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.51/34/147/25/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   right)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   294 K/uL
   104 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   27 mg/dL
   99 mEq/L
   133 mEq/L
   26.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2108-1-9**]  07:04 PM
                             [**2108-1-9**]  08:55 PM
                             [**2108-1-9**]  10:14 PM
                             [**2108-1-9**]  11:51 PM
                             [**2108-1-10**]  01:06 AM
                             [**2108-1-10**]  01:20 AM
                             [**2108-1-10**]  04:03 AM
                             [**2108-1-10**]  04:30 AM
                             [**2108-1-10**]  07:10 AM
                             [**2108-1-10**]  07:41 AM
   WBC
   6.5
   Hct
   29.4
   27.1
   27.8
   28.2
   26.9
   Plt
   294
   Cr
   1.3
   TCO2
   28
   26
   28
   26
   28
   Glucose
   98
   104
   Other labs: PT / PTT / INR:14.2/28.8/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:9.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Acute on chronic diastolic CHF:  Lasix drip for diuresis
   hemoptisys:  may have been due to vascular injury with airway
   communication during thoracentisis - blocker in place.  Bronch today,
   if no bleeding, remove blocker.
   HOTN:  On leveophed, but likely due to sedation.
   Respiratory failure:  Is alkalotic, but breathing over rate.  Will try
   PSV once blocker is out
   UC: stable
   Afib:  currently HR controlled.
   PUD:  stable:
   no evidence of infection, so will stop IV antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-1-9**] 04:33 PM
   Arterial Line - [**2108-1-9**] 06:40 PM
   Multi Lumen - [**2108-1-9**] 06:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will need consent from family
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-01-11 11:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women admitted with CHF, c/b hemoptysis after thoracentesis.
   bronchial blocker removed yesterday.  has been stable.  placed back on
   AC after PS overnight.
   24 Hour Events:
 BRONCHOSCOPY - At [**2108-1-10**] 10:49 AM
 TRANSTHORACIC ECHO - At [**2108-1-10**] 10:50 AM
 BRONCHOSCOPY - At [**2108-1-10**] 12:47 PM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Vancomycin - [**2108-1-10**] 12:31 AM
   Metronidazole - [**2108-1-10**] 07:59 AM
   Aztreonam - [**2108-1-10**] 08:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-1-10**] 12:00 PM
   Midazolam (Versed) - [**2108-1-10**] 07:45 PM
   Fentanyl - [**2108-1-11**] 01:55 AM
   Pantoprazole (Protonix) - [**2108-1-11**] 04:30 AM
   Other medications:
   thiamine
   asacol
   feso4
   folate
   fexofenidine
   chlorhex
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-11**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 105 (84 - 120) bpm
   BP: 100/88(93) {89/56(68) - 100/88(93)} mmHg
   RR: 17 (5 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
   CVP: 12 (12 - 24)mmHg
   Total In:
                                                                    974 mL
                                                                    550 mL
   PO:
   TF:
                                                                     97 mL
                                                                    306 mL
   IVF:
                                                                    877 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                  1,390 mL
   Urine:
                                                                  1,425 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 588 (369 - 588) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/43/108/26/3
   Ve: 6.6 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   267 K/uL
   112 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   27 mg/dL
   99 mEq/L
   134 mEq/L
   26.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2108-1-10**]  02:41 PM
                             [**2108-1-10**]  03:25 PM
                             [**2108-1-10**]  04:00 PM
                             [**2108-1-10**]  05:59 PM
                             [**2108-1-10**]  08:05 PM
                             [**2108-1-10**]  08:20 PM
                             [**2108-1-11**]  12:45 AM
                             [**2108-1-11**]  03:16 AM
                             [**2108-1-11**]  03:37 AM
                             [**2108-1-11**]  10:48 AM
   WBC
   8.5
   Hct
   27.4
   27.2
   26.8
   26.1
   Plt
   267
   Cr
   1.5
   1.4
   TCO2
   28
   27
   27
   29
   29
   29
   Glucose
   98
   112
   Other labs: PT / PTT / INR:15.5/29.1/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory failure:  improved respiratory status.  Looks good on PSV
   [**4-24**].  Hold TFs  Aim to extubate later today
   Hemoptysis:  has resolved.
   CHF:  H/O ?diastolic fxn versus constrictive/restrictive process.
   continue to diurese.
   Right effusion:  stable.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2108-1-10**] 05:36 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-1-9**] 06:40 PM
   Multi Lumen - [**2108-1-9**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically Ill

2108-01-12 10:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with diastolic CHF, respiratory failure.  Did well on SBT
   yesterday, but did not have cuff [**Last Name (LF) 2400**], [**First Name3 (LF) **] treated with steroids.
   24 Hour Events:
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Vancomycin - [**2108-1-10**] 12:31 AM
   Metronidazole - [**2108-1-10**] 07:59 AM
   Aztreonam - [**2108-1-10**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   thiamine
   mesalamine
   Feso4
   folate
   fexofenidine
   chlorhexidine
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-12**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.4
   HR: 75 (65 - 115) bpm
   BP: 98/59(73) {69/45(55) - 116/88(93)} mmHg
   RR: 19 (10 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
   CVP: 113 (12 - 113)mmHg
   Total In:
                                                                  1,177 mL
                                                                    480 mL
   PO:
   TF:
                                                                    678 mL
                                                                    100 mL
   IVF:
                                                                    409 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,010 mL
   Urine:
                                                                  2,710 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,533 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 300 (300 - 430) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.46/44/85.[**Numeric Identifier 128**]/28/6
   Ve: 6.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   191 K/uL
   151 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   25 mg/dL
   98 mEq/L
   134 mEq/L
   25.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2108-1-11**]  12:45 AM
                             [**2108-1-11**]  03:16 AM
                             [**2108-1-11**]  03:37 AM
                             [**2108-1-11**]  10:48 AM
                             [**2108-1-11**]  12:31 PM
                             [**2108-1-11**]  04:00 PM
                             [**2108-1-11**]  04:06 PM
                             [**2108-1-11**]  10:49 PM
                             [**2108-1-12**]  03:29 AM
                             [**2108-1-12**]  03:49 AM
   WBC
   8.5
   5.4
   Hct
   26.8
   26.1
   26.0
   26.6
   25.9
   Plt
   267
   191
   Cr
   1.4
   1.4
   1.3
   1.2
   TCO2
   29
   29
   30
   30
   32
   Glucose
   112
   101
   158
   151
   Other labs: PT / PTT / INR:15.2/27.4/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Respiratory failure:  doing well with SBT, but sats little low this
   AM.  [**Month (only) 60**] have mucous plug, so will bronch.
   hemoptysis no further bleeding.
   AF:  in good rate control
   acute on chronic diastolic CHF: continue diuresis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-1-9**] 06:40 PM
   Multi Lumen - [**2108-1-9**] 06:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill